US05082587
Sodium hydride (2.4 g, 0.1 mol) was suspended in 150 mL dry glyme. Monobenzylhydroquinone (20.0 g, 0.1 mol) was dissolved in 250 mL dry glyme and added dropwise to the sodium hydride suspension with stirring under nitrogen at room temperature. 1-Bromohexane (16.5 g, 0.1 mol) was added dropwise and the reaction mixture was refluxed for 1 day. The reaction product was cooled and the glyme removed under reduced pressure. The residue was dissolved in 300 mL 1:1 ethanol-ethyl acetate and catalytically hydrogenated using 2 g 10% Pd on C and a hydrogen pressure of 500 kPa at room temperature for 4 hours. The catalyst was removed by filtration and the solvent was removed from the filtrate under reduced pressure. The crude product residue was recrystallized from aqueous ethanol to yield 15 g 4-hexyloxyphenol.

reactant | Sodium hydride | 0.1 mol, 2.4 g | [H-].[Na+]
reactant | Monobenzylhydroquinone | 0.1 mol, 20.0 g | C(C1=CC=CC=C1)C1=C(O)C=CC(=C1)O | C13H12O2
reactant | 1-Bromohexane | 0.1 mol, 16.5 g | BrCCCCCC | C6H13Br
solvent | glyme | 150 mL | C(OC)COC | C4H10O2
solvent | glyme | 250 mL | C(OC)COC | C4H10O2
product | 4-hexyloxyphenol | 15 g | C(CCCCC)OC1=CC=C(C=C1)O | C12H18O2
